* d:\esim_tut\files\uart_tx\uart_tx.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ uart_tx
* u6  1 2 3 4 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ adc_bridge_4
* u7  net-_u1-pad5_ net-_u1-pad6_ out1 out2 dac_bridge_2
v1  1 gnd pulse(5 0 1m 1m 1m 20 160)
v2  2 gnd pulse(0 5 1m 1m 1m 100 160)
v3  3 gnd pulse(5 0 1m 1m 1m 80 160)
v4  4 gnd pulse(5 0 1m 1m 1m 40 160)
* u8  out1 plot_v1
* u9  out2 plot_v1
* u2  1 plot_v1
* u4  2 plot_v1
* u5  3 plot_v1
* u3  4 plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] [net-_u1-pad5_ ] [net-_u1-pad6_ ] u1
a2 [1 2 3 4 ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ] u6
a3 [net-_u1-pad5_ net-_u1-pad6_ ] [out1 out2 ] u7
* Schematic Name:                             uart_tx, NgSpice Name: uart_tx
.model u1 uart_tx(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 160e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
plot v(out2)
plot v(1)
plot v(2)
plot v(3)
plot v(4)
.endc
.end
